US04542022
(c) N-(6-chloro-2H-1-benzopyran-4-yl)-methylamine
500 ml of 33% ethanolic methylamine are added dropwise with cooling by ice/water to 105 g of 6-chloro-4-chloromethyl-2H-1-benzopyrane. Reaction is continued for 8 hours at room temperature, the mixture concentrated by evaporation and the residue taken up in dichloromethane. This solution is washed with 500 ml each of 1N NaOH and water, dried over MgSO4 and concentrated by evaporation. Distillation of the residue yields the title product b.p.: 116-120/13.3 Pascal.

reactant | 6-chloro-4-chloromethyl-2H-1-benzopyrane | 105 g | ClC=1C=CC2=C(C(=CCO2)CCl)C1 | C10H8Cl2O
reactant | methylamine | 500 ml | CN | CH5N
product | N-(6-chloro-2H-1-benzopyran-4-yl)-methylamine | ClC=1C=CC2=C(C(=CCO2)NC)C1 | C10H10ClNO
